US04978663
5-(1-Aminocyclohexyl)-1-methyl-2(1H)-pyridinone hydrochloride
Concentrated sulfuric acid (67 ml) was added dropwise over 45 minutes to a suspension of 5-(1-hydroxycyclohexyl)-1-methyl-2(1H)-pyridinone (17.2 g) and potassium cyanide (16.3 g) in 334 ml of trifluoroacetic acid at 0° C. The resulting suspension was stirred at room temperature for 18 hours, and then it was cooled to 0° C., and diethyl ether was added slowly. The solvent was decanted, and the solids were washed with diethyl ether. The product was then dissolved in methanol and neutralized with poly-4-vinylpyridine. The polymer was removed by filtration, and the filtrate concentrated to yield a foam. The foam was dissolved in methanol, acidified with ethereal hydrochloric acid and concentrated, affording 17.1 g of foam.

reactant | sulfuric acid | 67 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(1-hydroxycyclohexyl)-1-methyl-2(1H)-pyridinone | 17.2 g | OC1(CCCCC1)C=1C=CC(N(C1)C)=O | C12H17NO2
reactant | potassium cyanide | 16.3 g | [C-]#N.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | trifluoroacetic acid | 334 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-(1-Aminocyclohexyl)-1-methyl-2(1H)-pyridinone hydrochloride | 17.1 g | Cl.NC1(CCCCC1)C=1C=CC(N(C1)C)=O | InChI=1S/C12H18N2O.ClH/c1-14-9-10(5-6-11(14)15)12(13)7-3-2-4-8-12;/h5-6,9H,2-4,7-8,13H2,1H3;1H
